US04861798
9(4-Methoxyphenyl)nonanoyl chloride
To an ice-cold, stirring solution of 3 gm 9(4-methoxyphenyl)nonanoic acid in 10 ml. CH2Cl2 was added dropwise 1.2 ml thionyl chloride. The solution was then allowed to warm up to room temperature. The solvent and excess thionyl chloride were removed in vacuo to give a brown oil, which was used directly in the last step without further purification.

reactant | 9(4-methoxyphenyl)nonanoic acid | 3 gm | COC1=CC=C(C=C1)CCCCCCCCC(=O)O | C16H24O3
reactant | thionyl chloride | 1.2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 9(4-Methoxyphenyl)nonanoyl chloride | COC1=CC=C(C=C1)CCCCCCCCC(=O)Cl | C16H23ClO2
